Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[CH2:1][c:2]1[cH:3][cH:4][cH:5][n:6][cH:7]1.[CH3:8][CH:9]([CH3:10])[c:11]1[cH:12][cH:13][c:14]([N:15]([CH2:16][c:17]2[cH:18][n:19][nH:20][cH:21]2)[C:22](=[O:23])[CH:24]2[CH2:25][CH2:26][CH2:27][c:28]3[c:29]([O:30][CH2:31][c:32]4[cH:33][cH:34][cH:35][cH:36][cH:37]4)[cH:38][cH:39][cH:40][c:41]32)[cH:42][n:43]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][n:6][cH:7]1)[n:20]1[n:19][cH:18][c:17]([CH2:16][N:15]([c:14]2[cH:13][cH:12][c:11]([CH:9]([CH3:8])[CH3:10])[n:43][cH:42]2)[C:22](=[O:23])[CH:24]2[CH2:25][CH2:26][CH2:27][c:28]3[c:29]([O:30][CH2:31][c:32]4[cH:33][cH:34][cH:35][cH:36][cH:37]4)[cH:38][cH:39][cH:40][c:41]32)[cH:21]1,[CH3:8][CH:9]([CH3:10])[c:11]1[cH:12][cH:13][c:14]([N:15]([CH2:16][c:17]2[cH:18][n:19][nH:20][cH:21]2)[C:22](=[O:23])[CH:24]2[CH2:25][CH2:26][CH2:27][c:28]3[c:29]([O:30][CH2:31][c:32]4[cH:33][cH:34][cH:35][cH:36][cH:37]4)[cH:38][cH:39][cH:40][c:41]32)[cH:42][n:43]1.[Cl:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][n:6][cH:7]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][n:6][cH:7]1)[n:20]1[n:19][cH:18][c:17]([CH2:16][N:15]([c:14]2[cH:13][cH:12][c:11]([CH:9]([CH3:8])[CH3:10])[n:43][cH:42]2)[C:22](=[O:23])[CH:24]2[CH2:25][CH2:26][CH2:27][c:28]3[c:29]([O:30][CH2:31][c:32]4[cH:33][cH:34][cH:35][cH:36][cH:37]4)[cH:38][cH:39][cH:40][c:41]32)[cH:21]1,SN2,"[(20, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1](=[O:2])[c:3]1[cH:4][cH:5][n:6][c:7]([N:8]2[CH2:9][CH2:10][N:11]([C:12](=[O:13])[c:14]3[cH:15][c:16]([F:17])[cH:18][cH:19][c:20]3[C:21]([F:22])([F:23])[F:24])[CH2:25][CH2:26]2)[cH:27]1.[CH3:28][CH2:29][CH2:30][CH2:31][CH2:32][CH2:33][NH2:34]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][n:6][c:7]([N:8]2[CH2:9][CH2:10][N:11]([C:12](=[O:13])[c:14]3[cH:15][c:16]([F:17])[cH:18][cH:19][c:20]3[C:21]([F:22])([F:23])[F:24])[CH2:25][CH2:26]2)[cH:27]1)[NH:34][CH2:33][CH2:32][CH2:31][CH2:30][CH2:29][CH3:28],C[O:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][n:6][c:7]([N:8]2[CH2:9][CH2:10][N:11]([C:12](=[O:13])[c:14]3[cH:15][c:16]([F:17])[cH:18][cH:19][c:20]3[C:21]([F:22])([F:23])[F:24])[CH2:25][CH2:26]2)[cH:27]1.[CH3:28][CH2:29][CH2:30][CH2:31][CH2:32][CH2:33][NH2:34]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][n:6][c:7]([N:8]2[CH2:9][CH2:10][N:11]([C:12](=[O:13])[c:14]3[cH:15][c:16]([F:17])[cH:18][cH:19][c:20]3[C:21]([F:22])([F:23])[F:24])[CH2:25][CH2:26]2)[cH:27]1)[NH:34][CH2:33][CH2:32][CH2:31][CH2:30][CH2:29][CH3:28],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(34, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[c:3]([O:4][c:5]2[cH:6][c:7]([O:8][C@H:9]([C:10]([O:11][CH3:12])=[O:13])[CH3:14])[c:15]([Cl:16])[cH:17][c:18]2[Cl:19])[n:20]([CH3:21])[n:22][c:23]1[CH3:24].[N:25]#[C:26][CH2:27][NH2:28]>>[CH:1](\[c:2]1[c:3]([O:4][c:5]2[cH:6][c:7]([O:8][C@H:9]([C:10]([O:11][CH3:12])=[O:13])[CH3:14])[c:15]([Cl:16])[cH:17][c:18]2[Cl:19])[n:20]([CH3:21])[n:22][c:23]1[CH3:24])=[N:28]/[CH2:27][C:26]#[N:25],[O:101]=[CH:1][c:2]1[c:3]([O:4][c:5]2[cH:6][c:7]([O:8][C@H:9]([C:10]([O:11][CH3:12])=[O:13])[CH3:14])[c:15]([Cl:16])[cH:17][c:18]2[Cl:19])[n:20]([CH3:21])[n:22][c:23]1[CH3:24].[N:25]#[C:26][CH2:27][NH2:28].[H+:301]>>[CH:1](\[c:2]1[c:3]([O:4][c:5]2[cH:6][c:7]([O:8][C@H:9]([C:10]([O:11][CH3:12])=[O:13])[CH3:14])[c:15]([Cl:16])[cH:17][c:18]2[Cl:19])[n:20]([CH3:21])[n:22][c:23]1[CH3:24])=[N:28]/[CH2:27][C:26]#[N:25],imine_formation,"[(28, 1), ([1, 101], 301), (101, 28.1), ([28.1, 28], 28), (28, [28, 1]), ([1, 101], 101), ([28.1, 28], 28)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][CH2:2][c:3]1[c:4]([CH3:5])[cH:6][c:7]([CH:8]2[CH2:9][CH2:10][CH2:11]2)[nH:12][c:13]1=[O:14]>>[NH2:1][CH2:2][c:3]1[c:4]([CH3:5])[cH:6][c:7]([CH:8]2[CH2:9][CH2:10][CH2:11]2)[nH:12][c:13]1=[O:14],[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][CH2:2][c:3]1[c:4]([CH3:5])[cH:6][c:7]([CH:8]2[CH2:9][CH2:10][CH2:11]2)[nH:12][c:13]1=[O:14].[H+:301]>>[NH2:1][CH2:2][c:3]1[c:4]([CH3:5])[cH:6][c:7]([CH:8]2[CH2:9][CH2:10][CH2:11]2)[nH:12][c:13]1=[O:14],Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
